US04343813
trans-N-Octyl-2-[4-(4-carboxy-2-oxo-pyrrolidino)phenyl]cyclopropanecarboxamide
A mixture of 2.2 g. of trans-N-octyl-2-(4-aminophenyl)cyclopropanecarboxamide and 989 mg. of itaconic acid were heated as a melt at 140°-145° C. for 1 hour. The reaction mixture was cooled slightly and then it was triturated with 25 ml. of ethyl acetate. The white solid which formed was filtered off. It was recrystallized from ethanol containing a small amount of acetonitrile, and then from acetic acid, to give 1.09 g. of the title compound as a white solid, m.p. 213.5°-214.5° C. The infrared spectrum (KBr disc) showed absorptions at 3280, 3125, 1695 and 1625 cm1.

reactant | trans-N-octyl-2-(4-aminophenyl)cyclopropanecarboxamide | C(CCCCCCC)NC(=O)[C@H]1[C@@H](C1)C1=CC=C(C=C1)N | C18H28N2O
reactant | itaconic acid | C(C(=C)CC(=O)O)(=O)O | C5H6O4
product | trans-N-Octyl-2-[4-(4-carboxy-2-oxo-pyrrolidino)phenyl]cyclopropanecarboxamide | C(CCCCCCC)NC(=O)[C@H]1[C@@H](C1)C1=CC=C(C=C1)N1C(CC(C1)C(=O)O)=O | C23H32N2O4
